US07119207B2
6-Methoxy-1-methyl-7-[(6-methyl-2-phenyl-piperidin-3-ylamino)-methyl]-3,4-dihydro-1H-quinolin-2-one
By a procedure similar to the previous examples 9 and 9A: prepared through the reaction of 6-methyl-2-phenyl-piperidin-3-ylamine [or (2S,3S,6S)-6-methyl-2-phenyl-piperidin-3-ylamine or (2R,3R,6R)-6-methyl-2-phenyl-piperidin-3-ylamine] with 6-Methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde.

reactant | 6-methyl-2-phenyl-piperidin-3-ylamine | CC1CCC(C(N1)C1=CC=CC=C1)N | C12H18N2
reactant | (2S,3S,6S)-6-methyl-2-phenyl-piperidin-3-ylamine | C[C@H]1CC[C@@H]([C@@H](N1)C1=CC=CC=C1)N | C12H18N2
reactant | (2R,3R,6R)-6-methyl-2-phenyl-piperidin-3-ylamine | C[C@@H]1CC[C@H]([C@H](N1)C1=CC=CC=C1)N | C12H18N2
reactant | 6-Methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde | COC=1C=C2CCC(N(C2=CC1C=O)C)=O | C12H13NO3
product | 6-Methoxy-1-methyl-7-[(6-methyl-2-phenyl-piperidin-3-ylamino)-methyl]-3,4-dihydro-1H-quinolin-2-one | COC=1C=C2CCC(N(C2=CC1CNC1C(NC(CC1)C)C1=CC=CC=C1)C)=O | C24H31N3O2
